US08729068B2
To a mixture of 332 mg of 3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoic acid, one drop of DMF, and 3 mL of dichloromethane was added 0.11 mL of oxalyl chloride under ice-cooling, followed by stirring at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, and then to a mixture of the obtained crude product and 3 mL of dichloromethane were added 0.11 mL of pyridine and 300 mg of methyl 4-[3-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and then the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate and hexane-chloroform) to obtain 241 mg of methyl 4-(3-{4-[({2-[(3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}propyl)benzoate as a yellow amorphous solid.

reactant | 3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoic acid | 332 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C17H23NO6S
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-[3-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate | 300 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C26H28N2O3S
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 0.11 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-(3-{4-[({2-[(3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}propyl)benzoate | 241 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C43H49N3O8S2
